*
.SUBCKT PBSS4350S 1 2 3
*
Q1 2 1 3 PBSS4350S
+ AREA = 1
D1 1 2 DIODE
*
*The diode does not reflect a 
*physical device but improves 
*only modeling in the reverse 
*mode of operation.
*
.MODEL PBSS4350S NPN
+ IS = 4.794E-13
+ NF = 0.9939
+ ISE = 2.251E-14
+ NE = 1.552
+ BF = 289.5
+ IKF = 10
+ VAF = 154.1
+ NR = 0.99
+ ISC = 6.046E-15
+ NC = 1.1
+ BR = 77
+ IKR = 1.5
+ VAR = 20
+ RB = 9.6
+ IRB = 0.0012
+ RBM = 2.05
+ RE = 0.047
+ RC = 0.036
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 3.857E-10
+ VJE = 0.55
+ MJE = 0.3026
+ TF = 8.5E-10
+ XTF = 19
+ VTF = 0.5
+ ITF = 3.5
+ PTF = 0
+ CJC = 6.554E-11
+ VJC = 0.6265
+ MJC = 0.4593
+ XCJC = 1
+ TR = 2.85E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.5
.MODEL DIODE D
+ IS = 7.67E-15
+ N = 1
+ BV = 1000
+ IBV = 0.001
+ RS = 150
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS
*
